datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[Si](C)(C)C12[C:62]3([C:11](=[CH2:10])[C:82]4=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]4)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C+:11]([C:62]23C4([Si](C)(C)C)[Co-3:63]2(C#[O+])(C#[O+])(C#[O+])[Co-3:73]43(C#[O+])(C#[O+])C#[O+])[C:82]2=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]2)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[N:62]1CCC[N:72](C(C)(C)C)[P:11]1[H:10].[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>CC(C)(C)[N:62]1CCC[N:72](C(C)(C)C)[P+:11]1.[H:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10,11=10,20"
"COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC.F[B-:63](F)(F)[CH2:62][CH:11]=[CH2:10]>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([CH2:10][CH+:11][CH2:62][B-:63](F)(F)F)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;20,21=21,22;22,23=23"
"C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[N:12]1/[CH:11]=[CH:10]/C1=CC=CC=C1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[N+:12]1=[CH:11][CH:10](C1=CC=CC=C1)[C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1 10,11=10,20;12=11,12"
"CCCC[Si:11](CCCC)(CCCC)[H:10].O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>CCCC[Si+:11](CCCC)CCCC.O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([H:10])[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1C[CH:63]=[CH:62][CH:11]=[CH:10]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH:10]2CC[CH:63]=[CH:62][CH+:11]2)[C:41]2=[N:42]O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.NC1=NC=N[C:61]2=[C:62]1[N:72]=[CH:71][N-:10]2>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C:61]3=[C:62](C(N)=NC=N3)[N:72]=[CH:71]2)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10=20
C1CC[NH:10]CC1.C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([NH+:10]2CCCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10=20
"C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20"
"C[N+:21](C1=CC=CC=C1)=[CH2:20].C[N:10](C)[NH:61][CH:62]=[O:63]>>C[N+:10](C)([CH2:20][N:21](C)C1=CC=CC=C1)[NH:61][CH:62]=[O:63] 10=20;20,21=21"
"C1CC[C:11](=[CH2:10])C1.C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2>>C1CC[C+:11]([CH2:10][CH:20]2[C:21](C[N+]34CCN(CC3)CC4)=[C:22]([O-:23])O[C:32]3=[C:31]2[CH:36]=[CH:35][CH:34]=[CH:33]3)C1 10,11=10,20;20,21=21,22;22,23=23"
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62]>>C[C:61]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Br)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]1)[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62] 10=20
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.[H:10][BH2-:11][N+:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C1=CC=C([P:22](C2=CC=CC=C2)(=[N:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[O-:23])C=C1.[BH2:11][N+:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;20,21=21,22;22,23=23"
